US07494992B2
(1S,2R,4aS,5R,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-2-[(2-methylpropanoyl)oxy]-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To a solution of (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 139, 25 mg, 0.05 mmol) and 4-dimethylaminopyridine (6 mg, 0.05 mmol) in dichloromethane (2 ml) was added isobutyric anhydride (17 mg, 0.11 mmol) and the resulting mixture stood at room temperature for 18 h. The crude product was purified by column chromatography on a Sepak® silica (1.5 g) cartridge eluting with hexane:dichlcromethane (1:1, 2 ml) then hexane:ethyl acetate (4:1 then 2:1 then 1:1, 3 ml each). The pure fractions were combined and concentrated in vacuo, to give the title compound (11 mg, 37%).

reactant | (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.05 mmol, 25 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)O)O | C27H35ClN2O6
reactant | isobutyric anhydride | 0.11 mmol, 17 mg | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | 4-dimethylaminopyridine | 0.05 mmol, 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5R,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-2-[(2-methylpropanoyl)oxy]-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 11 mg, 37% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)OC(C(C)C)=O)O | C31H41ClN2O7
